US07576089B2
tert-Butyl [(3S)-1-({1-[3-(Trifluoromethyl)phenyl]piperidin-4-yl}carbonyl)pyrrolidin-3-yl]carbamate
tert-Butyl (3S)-pyrrolidin-3-ylcarbamate (0.65 g, 3.5 mmol), 1-[3-(trifluoromethyl)phenyl]piperidine-4-carboxylic acid (0.80 g, 2.9 mmol), triethylamine (0.82 mL, 5.8 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (1.4 g, 3.2 mmol) were mixed in dry methylene chloride (10 mL). After being stirred overnight, the reaction mixture was diluted with EtOAc and washed with saturated NaHCO3. The aqueous layer was extracted with EtOAc three times. The combined organic layers were dried (MgSO4), concentrated and flash chromatographed (20% EtOAc/hexanes to 40% EtOAc/hexanes) to give 0.975 g of the desired product. MS (M+H) 442.1.

reactant | tert-Butyl (3S)-pyrrolidin-3-ylcarbamate | 3.5 mmol, 0.65 g | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | 1-[3-(trifluoromethyl)phenyl]piperidine-4-carboxylic acid | 2.9 mmol, 0.80 g | FC(C=1C=C(C=CC1)N1CCC(CC1)C(=O)O)(F)F | C13H14F3NO2
reactant | triethylamine | 5.8 mmol, 0.82 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 3.2 mmol, 1.4 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl [(3S)-1-({1-[3-(Trifluoromethyl)phenyl]piperidin-4-yl}carbonyl)pyrrolidin-3-yl]carbamate | 0.975 g | FC(C=1C=C(C=CC1)N1CCC(CC1)C(=O)N1C[C@H](CC1)NC(OC(C)(C)C)=O)(F)F | C22H30F3N3O3
